US05126457
In the first step of the synthesis 2-nitro-benzaldehyde is reacted with methyl acetoacetate in the presence of a catalytic amount (0.01-0.7 mole, related to 1 mole of methyl acetoacetate) of piperidine acetate to give methyl-2-nitro-benzylidene-acetoacetate with a high yield of about 97%. This product is reacted after or without isolation with methyl-3-amino-crotonate. The yield of the second step is 87%, the total yield of both steps amounts to 84.4%. According to the disclosure of the cited Hungarian patent the thin layer chromatogram of the nifedipine thus obtained shows no by-products (Merck-type plate coated with kieselgel; developed with a 3:2:5 mixture of chloroform, acetone and petrolether).

reactant | 2-nitro-benzaldehyde | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | methyl acetoacetate | C(CC(=O)C)(=O)OC | C5H8O3
reactant | piperidine acetate | 0.01-0.7 mole | C(C)(=O)O.N1CCCCC1
product | methyl-2-nitro-benzylidene-acetoacetate | yield of about 97% | COC(CC(=O)C=CC1=C(C=CC=C1)[N+](=O)[O-])=O | C12H11NO5
